US04221716
U.S. Pat. Nos. 4,045,576 and 4,126,635 disclose methods for the preparation of 7-benzoylindolin-2-ones. According to one method, 1-aminoindolin-2-one is reacted with a phenylacetone to give a 1-(α-methylphenethylindenimino) indolin-2-one which is cyclized in ethanolic hydrogen chloride to an ethyl α-(2-methyl-3-phenylindol-7-yl)acetate. This indolylester is treated with ozone in acetic acid solution to give an ethyl 2-acetamido-3-benzoylphenylacetate which is hydrolyzed and cyclized in dilute mineral acid to a 7-benzoylindolin-2-one.

reactant | 1-aminoindolin-2-one | NN1C(CC2=CC=CC=C12)=O | C8H8N2O
reactant | phenylacetone | C1(=CC=CC=C1)CC(C)=O | C9H10O
product | indolin-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
